US05021420
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (3.9 g), triethylamine (1.9 cc), 4-[bis(4-fluorophenyl)methylene]piperidine (3.7 g) and sodium iodide (2.1 g) in toluene (150 cc). The mixture is heated for 6 hours at boiling point, then cooled to a temperature of about 20° C. After purification by flashchromatography on a silica column., under a current of argon at medium pressure (0.5-1.5 bar) with dichloromethene as eluant, 2-(3-[bis(4-fluorophenyl)-4-methylenepiperidino]propyl}naphtho[1,8-cd]-isothiazole 1,1-dioxide (4.6 g) is obtained in the form of a brown oil which is converted to the hydrochloride, m.p. 137° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 3.9 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 1.9 cc | C(C)N(CC)CC | C6H15N
reactant | 4-[bis(4-fluorophenyl)methylene]piperidine | 3.7 g | FC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=C(C=C1)F | C18H17F2N
reactant | sodium iodide | 2.1 g | [I-].[Na+]
reactant | toluene | 150 cc | C1(=CC=CC=C1)C | C7H8
product | 2-(3-[bis(4-fluorophenyl)-4-methylenepiperidino]propyl}naphtho[1,8-cd]-isothiazole 1,1-dioxide | 4.6 g | FC1=CC=C(C=C1)C1(N(CCC(C1)=C)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O)C2=CC=C(C=C2)F | C31H28F2N2O2S
